US06451814B1
4-(4-{2-[(2S)-3-(3-Fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
N-({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}-3-fluorophenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)-N′-octylurea (0.228 g, 0.271 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.126 g, 0.223 mmol).

reactant | N-({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}-3-fluorophenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl}carbonyl)-N′-octylurea | 0.271 mmol, 0.228 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NC(=O)NCCCCCCCC)C=C2)O)C=C1)F | C48H66FN5O5Si
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-3-(3-Fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.223 mmol, 0.126 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=C(C=C1)O)F)O | C31H47FN4O4
